US06610707B1
Acetyl chloride (91 ml) was added to a stirred solution of ethyl (2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarboximidate (288 mg) [see Preparation 41] and triethylamine (178 ml) in toluene (5 ml). The reaction mixture was stirred at room temperature for 1 hr after which time hydrazine hydrate (62 ml) was added. The mixture was stirred for 18 hrs and then poured into a column containing silica gel, and the product eluted with a solvent gradient of 1:1, by volume, ethyl acetate: hexane followed by 95:5 ethyl acetate:methanol. The fractions containing the product were combined and the solvent removed under reduced pressure, the remaining residue was dissolved in toluene (10 ml) and the reaction mixture was heated to reflux for 1 hr. Tosic acid (5 mg) was then added and the mixture was heated to reflux for a further 18 hrs. The cooled reaction mixture was then purified by column chromatography on silica gel eluting with a solvent gradient of 1:1, changing to 0:100, by volume, hexane:ethyl acetate, in 10% increments, to afford (2S)-1-[(4-fluorophenyl)sulfonyl]-2-(5-methyl-4H-1,2,4-triazol-3-yl)piperidine (60 mg) as a white solid.

reactant | Acetyl chloride | 91 ml | C(C)(=O)Cl | C2H3ClO
reactant | ethyl (2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarboximidate | 288 mg | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C(OCC)=N | C14H19FN2O3S
reactant | triethylamine | 178 ml | C(C)N(CC)CC | C6H15N
reactant | hydrazine hydrate | 62 ml | O.NN
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (2S)-1-[(4-fluorophenyl)sulfonyl]-2-(5-methyl-4H-1,2,4-triazol-3-yl)piperidine | 60 mg | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C1=NN=C(N1)C | C14H17FN4O2S
